US04520131
Diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-1-(2-[N,N-bis-(methoxyethyl)]aminoethyl)-3,5-pyridine dicarboxylate
To a suspension of sodium hydride (5.2 gms.; 0.11 mole) (50% suspension mineral oil) in 100 ml of dry distilled DMF is added a solution of diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate (39.7 gms.; 0.1 mole) in 150 ml of DMF. After the gassing has ceased, the reaction mixture is heated on a water bath for 1 hour and then is cooled to 50° C. and to the hot solution is added a toluene solution of 2-chloro-N,N-bis(methoxyethyl)ethylamine. The reaction mixture is heated at 100°-110° C. for a period of 8 hours and then cooled. The unreacted NaH and NaCl is filtered off and the solvent removed from the filtrate. The residue is extracted with hot hexane which, on cooling, affords the desired product. Recrystallization from heptane yields the pure product.

reactant | sodium hydride | 0.11 mole, 5.2 gms | [H-].[Na+]
reactant | diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate | 0.1 mole, 39.7 gms | FC(C1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC)(F)F | C20H22F3NO4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2-chloro-N,N-bis(methoxyethyl)ethylamine | ClCCN(CCOC)CCOC | C8H18ClNO2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | Diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-1-(2-[N,N-bis-(methoxyethyl)]aminoethyl)-3,5-pyridine dicarboxylate | FC(C1=C(C=CC=C1)C1C(=C(N(C(=C1C(=O)OCC)C)CCN(CCOC)CCOC)C)C(=O)OCC)(F)F | C28H39F3N2O6
